US04163781
Dibenzyl N-[(3,5-diamino-6-chloropyrazinamido)iminomethyl]phosphoramidate
A stirred solution of N-amidino-3,5-diamino-6-chloropyrazinamide (4.6 g., 0.02 mole) and DBN (2.5 g., 0.02 mole) in dimethylformamide (150 ml) is treated with dibenzylchlorophosphite (6.6 g., 0.22 mole) in one portion. The reaction mixture is stirred at 25° C. for 18 hours, filtered and treated with water to precipitate dibenzyl N-[3,5-diamino-6-chloro-pyrazinamido)iminomethyl]phosphoramidate which melts at 187° C.

reactant | N-amidino-3,5-diamino-6-chloropyrazinamide | 0.02 mole, 4.6 g | C(N)(=N)NC(=O)C1=NC(=C(N=C1N)N)Cl | C6H8ClN7O
reactant | DBN | 0.02 mole, 2.5 g | C1CC2=NCCCN2C1 | C7H12N2
reactant | dibenzylchlorophosphite | 0.22 mole, 6.6 g | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)Cl | C14H14ClO2P
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | Dibenzyl N-[(3,5-diamino-6-chloropyrazinamido)iminomethyl]phosphoramidate | NC=1C(=NC(=C(N1)N)Cl)C(=O)NN=CNP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C20H21ClN7O4P
